US04334914
Synthesis of methoxyethyl-2-chloro-5-(2-chloro-4-trifluoromethylphenoxy)benzoate (compound No. 4)
In 20 ml methyl cellosolve was heated 2.0 g (0.0054 mol) of 2-chloro-5-(2-chloro-4-trifluoromethylphenoxy)benzoyl chloride to temperatures of 80°-120° C. for 3 hours with stirring. After methyl cellosolve was distilled off, the residue was extracted with benzene. The extract was washed with a dilute aqueous solution of caustic soda and with water, and then dehydrated by adding sodium sulfate. By vacuum concentration thereof 2.2 g (0.0047 mol) of the intended product was obtained as a viscous oily substance; yield 87.0%, nD25 1.5321.

reactant | 2-chloro-5-(2-chloro-4-trifluoromethylphenoxy)benzoyl chloride | 0.0054 mol, 2.0 g | ClC1=C(C(=O)Cl)C=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl | C14H6Cl3F3O2
reactant | methyl cellosolve | 20 ml | COCCO | C3H8O2
product | methoxyethyl-2-chloro-5-(2-chloro-4-trifluoromethylphenoxy)benzoate | 0.0047 mol, 2.2 g, yield 87.0% | COCCOC(C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)Cl)=O | C17H13Cl2F3O4
